Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CO[C:1](=[O:2])[CH:3]([CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[NH:11][C:12](=[S:13])[NH:14][c:15]1[n:16][c:17]([C:18]#[N:19])[cH:20][s:21]1>>[C:1]1(=[O:2])[CH:3]([CH2:4][c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[NH:11][C:12](=[S:13])[N:14]1[c:15]1[n:16][c:17]([C:18]#[N:19])[cH:20][s:21]1,C[O:101][C:1](=[O:2])[CH:3]([CH2:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[NH:11][C:12](=[S:13])[NH:14][c:15]1[n:16][c:17]([C:18]#[N:19])[cH:20][s:21]1>>[C:1]1(=[O:2])[CH:3]([CH2:4][c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[NH:11][C:12](=[S:13])[N:14]1[c:15]1[n:16][c:17]([C:18]#[N:19])[cH:20][s:21]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(14, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CS(=O)(=O)O[CH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9](-[c:10]2[cH:11][c:12]([C:13](=[O:14])[N:15]3[CH2:16][NH:17][C:18](=[O:19])[CH2:20]3)[n:21][n:22]2-[c:23]2[cH:24][cH:25][cH:26][c:27]([Cl:28])[cH:29]2)[cH:30]1.[CH3:31][CH2:32][NH2:33]>>[CH2:1]([CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9](-[c:10]2[cH:11][c:12]([C:13](=[O:14])[N:15]3[CH2:16][NH:17][C:18](=[O:19])[CH2:20]3)[n:21][n:22]2-[c:23]2[cH:24][cH:25][cH:26][c:27]([Cl:28])[cH:29]2)[cH:30]1)[NH:33][CH2:32][CH3:31],CS(=O)(=O)[O:101][CH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9](-[c:10]2[cH:11][c:12]([C:13](=[O:14])[N:15]3[CH2:16][NH:17][C:18](=[O:19])[CH2:20]3)[n:21][n:22]2-[c:23]2[cH:24][cH:25][cH:26][c:27]([Cl:28])[cH:29]2)[cH:30]1.[CH3:31][CH2:32][NH2:33]>>[CH2:1]([CH2:2][CH2:3][O:4][c:5]1[cH:6][cH:7][cH:8][c:9](-[c:10]2[cH:11][c:12]([C:13](=[O:14])[N:15]3[CH2:16][NH:17][C:18](=[O:19])[CH2:20]3)[n:21][n:22]2-[c:23]2[cH:24][cH:25][cH:26][c:27]([Cl:28])[cH:29]2)[cH:30]1)[NH:33][CH2:32][CH3:31],SN2,"[(33, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][CH:4]([c:5]2[n:6][c:7]([NH:8][CH2:9][c:10]3[cH:11][cH:12][cH:13][cH:14][n:15]3)[c:16]3[c:17](-[c:18]4[cH:19][cH:20][cH:21][cH:22][cH:23]4)[cH:24][cH:25][cH:26][c:27]3[n:28]2)[CH2:29][CH2:30]1>>[NH:1]1[CH2:2][CH2:3][CH:4]([c:5]2[n:6][c:7]([NH:8][CH2:9][c:10]3[cH:11][cH:12][cH:13][cH:14][n:15]3)[c:16]3[c:17](-[c:18]4[cH:19][cH:20][cH:21][cH:22][cH:23]4)[cH:24][cH:25][cH:26][c:27]3[n:28]2)[CH2:29][CH2:30]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][CH:4]([c:5]2[n:6][c:7]([NH:8][CH2:9][c:10]3[cH:11][cH:12][cH:13][cH:14][n:15]3)[c:16]3[c:17](-[c:18]4[cH:19][cH:20][cH:21][cH:22][cH:23]4)[cH:24][cH:25][cH:26][c:27]3[n:28]2)[CH2:29][CH2:30]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][CH:4]([c:5]2[n:6][c:7]([NH:8][CH2:9][c:10]3[cH:11][cH:12][cH:13][cH:14][n:15]3)[c:16]3[c:17](-[c:18]4[cH:19][cH:20][cH:21][cH:22][cH:23]4)[cH:24][cH:25][cH:26][c:27]3[n:28]2)[CH2:29][CH2:30]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH3:2])[CH2:3][CH:4]([CH3:5])[CH2:6][CH:7]([CH3:8])[CH3:9].[CH3:10][CH2:11][O:12][C:13](=[O:14])[CH2:15][C:16]#[N:17]>>[C:1]([CH3:2])([CH2:3][CH:4]([CH3:5])[CH2:6][CH:7]([CH3:8])[CH3:9])=[C:15]([C:13]([O:12][CH2:11][CH3:10])=[O:14])[C:16]#[N:17],[O:101]=[C:1]([CH3:2])[CH2:3][CH:4]([CH3:5])[CH2:6][CH:7]([CH3:8])[CH3:9].[CH3:10][CH2:11][O:12][C:13](=[O:14])[CH2:15][C:16]#[N:17].[OH-:301]>>[C:1]([CH3:2])([CH2:3][CH:4]([CH3:5])[CH2:6][CH:7]([CH3:8])[CH3:9])=[C:15]([C:13]([O:12][CH2:11][CH3:10])=[O:14])[C:16]#[N:17],aldol_condensation,"[(301, 15.1), ([15.1, 15], [15, 13]), ([13, 14], 14), (14, [14, 13]), ([13, 15], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 15.1), ([15.1, 15], [15, 13]), ([13, 14], 14), (14, [14, 13]), ([13, 15], [15, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[CH:3]([NH2:4])[c:5]1[cH:6][cH:7][cH:8][c:9]([NH:10][CH:11]2[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]2)[cH:17]1>>[CH2:1]([OH:2])[CH:3]([NH2:4])[c:5]1[cH:6][cH:7][cH:8][c:9]([NH:10][CH:11]2[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]2)[cH:17]1,C[O:101][C:1](=[O:2])[CH:3]([NH2:4])[c:5]1[cH:6][cH:7][cH:8][c:9]([NH:10][CH:11]2[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]2)[cH:17]1.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[CH:3]([NH2:4])[c:5]1[cH:6][cH:7][cH:8][c:9]([NH:10][CH:11]2[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]2)[cH:17]1,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
